US04193905
1-Phenyl-1,3-propanediamine
73 g (0.5 mol) of 5-phenyl-2-pyrazoline are hydrogenated in 400 ml of methanol saturated with ammonia with 10 g of freshly prepared Raney nickel for 5 hours at 80° C./100 atmospheres. The Raney nickel is filtered off on a suction filter containing a layer of kieselguhr. The solvent is removed from the filtrate in a rotary evaporator and the residue is distilled in a simple distillation apparatus and then through a 25 cm Vigreux column. This gives 66 g=88% of theory of a colourless oil with a boiling point under 0.0004 mm of 73° C. (literature: boiling point under 21 mm, 138°-141° C.).

reactant | 5-phenyl-2-pyrazoline | 0.5 mol, 73 g | C1(=CC=CC=C1)C1CC=NN1 | C9H10N2
reactant | ammonia | N | H3N
solvent | methanol | 400 ml | CO | CH4O
catalyst | Raney nickel | [Ni] | Ni
product | 1-Phenyl-1,3-propanediamine | C1(=CC=CC=C1)C(CCN)N | C9H14N2
